US06906084B2
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid (1-acetyl-piperidin-4-yl)-amide
To a solution of 50 mg 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid piperidin-4-ylamide in 2 ml DCM, 0.3 ml NEt3 and 11 mg acetic acid anhydride were added at RT and stirred over night. After removal of the solvent under reduced pressure the residue was directly purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). After lyophilization the product was obtained as a white solid.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid piperidin-4-ylamide | 50 mg | N1CCC(CC1)NC(=O)C=1N(C2=CC=CC=C2C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C22H21ClN4O2S
reactant | acetic acid anhydride | 11 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | NEt3 | 0.3 ml | CCN(CC)CC | C6H15N
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid (1-acetyl-piperidin-4-yl)-amide | C(C)(=O)N1CCC(CC1)NC(=O)C=1N(C2=CC=CC=C2C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C24H23ClN4O3S
